US04772600
N-Methyl-N-(phenylmethyl)-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:0.5]
Under nitrogen bubbling, a mixture of 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.21 g, 0.01 mole) and 1,1'-carbonyldiimidazole (1.62 g, 0.01 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hrs. N-methylbenzylamine (1.33 g, 0.011 mole) was added, and the reaction mixture was allowed to stir at room temperature for 1 hr.

reactant | 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.01 mole, 3.21 g | FC(C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O)(F)F | C15H10F3N3O2
reactant | 1,1'-carbonyldiimidazole | 0.01 mole, 1.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methylbenzylamine | 0.011 mole, 1.33 g | CNCC1=CC=CC=C1 | C8H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-Methyl-N-(phenylmethyl)-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | O.CN(C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O)CC2=CC=CC=C2 | InChI=1S/C23H19F3N4O.H2O/c1-29(14-16-6-3-2-4-7-16)20(31)15-30-21(28-19-8-5-13-27-22(19)30)17-9-11-18(12-10-17)23(24,25)26;/h2-13H,14-15H2,1H3;1H2
